US04837327
A mixture of 100 mg (0.52 mmol) of difluoromethyl phenyl sulfone, 1.0 mL of dichloromethane, 1.0 mL of 50% aqueous sodium hydroxide and 20 mg (0.050 mmol) of Aliquat 336 was stirred vigorously for 10 minutes and treated with a solution of 0.16 mL (1.6 mmol) of benzaldehyde in 0.5 mL of dichloromethane. Vigorous stirring was continued for four hours and the resulting mixture was poured into 20 mL of 1N HCL. Extraction of the aqueous mixture with three 10 mL portions of dichloromethane followed by combination, drying (MgSO4), and concentration in vacuo of the organic layers gave a residue which was purified by preparative TLC (two 2 mm silica gel plates eluted with dichloromethane), affording 140 mg (90% yield) of 2,2-difluoro-1-phenyl-2-phenylsulfonylethanol as a solid. Crystallization from toluene provided an analytical sample: mp 77°-79° C.; IR (neat) 3503, 3064, 2922, 1447, 1335, 1312, 1197, 1154, 1113, 1089, 996, 738, 715, 698, 685, 585, 558, cm-1 1H NMR (CDCl3) δ3.54 (broad s, 1H), 5.54 (dd, 1H, JHF =21, 3 Hz), 7.20-8.10 (m, 10H); 19F NMR (CDCl3, relative to CFCl3) -106.4 ppm (dd, 1F, JFF =238 Hz, JHF =3Hz), -121.6 ppm (dd, 1F, JFF =238 Hz, JHF =21 Hz); mass spectrum (70 eV) m/e relative intensity) 298 (8, M+), 156(18), 109(31), 107(100), 79(30), 78(18), 77(56), 51(20). Anal. Calcd. for C14H12F2O3S:C, 56.37; H, 4.06. Found: C, 56.58; H, 4.08.

reactant | difluoromethyl phenyl sulfone | 0.52 mmol, 100 mg | C1(=CC=CC=C1)S(=O)(=O)C(F)F | C7H6F2O2S
reactant | sodium hydroxide | 1.0 mL | [OH-].[Na+]
reactant | benzaldehyde | 1.6 mmol, 0.16 mL | C(C1=CC=CC=C1)=O | C7H6O
catalyst | Aliquat 336 | 0.050 mmol, 20 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 2,2-difluoro-1-phenyl-2-phenylsulfonylethanol | 140 mg, 90% yield | FC(C(O)C1=CC=CC=C1)(S(=O)(=O)C1=CC=CC=C1)F | C14H12F2O3S
